US07732460B2
(m) 6,7-Dihydro-5H-pyrano[2,3-c]pyridazine-3-carbaldehyde
A solution of 3-ethenyl-6,7-dihydro-5H-pyrano[2,3-c]pyridazine (100 mg, 0.617 mmol) in 1,4-dioxane (5.5 ml)/water (1.1 ml) was cooled in ice/water and treated with sodium periodate (306 mg, 1.43 mmol) and a 4% aqueous solution of osmium tetroxide (0.55 ml). The mixture was allowed to warm to room temperature after an hour, and after a total of 4.75 hours stirring, the solvent was evaporated. 1,4-Dioxane was added and evaporated, followed by dichloromethane and the mixture briefly held in an ultrasonic bath. The whole mixture was applied to a silica gel column and eluted with ethyl acetate to give product (55 mg, 54%).

reactant | 3-ethenyl-6,7-dihydro-5H-pyrano[2,3-c]pyridazine | 0.617 mmol, 100 mg | C(=C)C1=CC2=C(N=N1)OCCC2 | C9H10N2O
reactant | water | 1.1 ml | O | H2O
reactant | sodium periodate | 1.43 mmol, 306 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 5.5 ml | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | 0.55 ml | [Os](=O)(=O)(=O)=O
product | 6,7-Dihydro-5H-pyrano[2,3-c]pyridazine-3-carbaldehyde | 55 mg, 54% | N1=NC(=CC2=C1OCCC2)C=O | C8H8N2O2
